US07211672B2
(±)-Cis-N-[1-(3-methoxy-benzyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-acetamide was synthesized by dissolving (±)-cis-(2-methyl-1,2,3,4-tetrahydroquinol-4-yl) aniline in dimethylformamide and adding potassium carbonate (1.0–10.0 equiv.), and the 1-bromomethyl-3-methoxy-benzene (1.1–3.0 equiv), catalytic potassium iodide and was stirred at room temperature for 18 hours. The reaction mixture was filtered for removal of inorganic salts and concentrated. The crude mixture was purified by flash chromatography on silica gel using gradient elution hexane-ethyl acetate (5–20%). The corresponding aniline was then acylated as previously described in general procedure A to give (±)-cis-N-[1-(3-methoxy-benzyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-acetamide.

reactant | (±)-cis-(2-methyl-1,2,3,4-tetrahydroquinol-4-yl) aniline | C[C@@H]1NC2=CC=CC=C2[C@@H](C1)NC1=CC=CC=C1 | C16H18N2
reactant | potassium carbonate | 1.0–10.0 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromomethyl-3-methoxy-benzene | 1.1–3.0 equiv | BrCC1=CC(=CC=C1)OC | C8H9BrO
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)-cis-N-[1-(3-methoxy-benzyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-acetamide | COC=1C=C(CN2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=CC=C2)C)C=CC1 | C26H28N2O2
